US07176212B2
2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(2-ethylanilino)pyrimidine
2-Chloro-4-(2-ethylanilino)pyrimidine (Reference Example A-5; 210 mg, 0.90 mmol) was dissolved in n-butanol (20 ml). To this solution was added a hot solution of 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline hydrochloride (Reference Example D-1; 229 mg, 0.81 mmol) in methanol (2 ml). The reaction mixture was heated at 100° C. for 18 hours, allowed to cool to ambient temperature and then evaporated onto silica (3 ml). The residue was purified by column chromatography eluting with 0–5% 2.0M methanolic ammonia solution in DCM to give the title product as a colourless solid (201 mg, 61%). NMR (300 MHz): 1.09 (t, 3H), 2.17 (s, 6H), 2.31 (m, 2H), 2.58 (q, 2H), 3.80 (m, 3H), 5.96 (d, 1H), 6.72 (d, 2H), 7.20 (m, 3H), 7.36 (d, 1H), 7.53 (d, 2H), 7.89 (d, 1H), 8.56 (s, 1H), 8.76 (s, 1H); m/z: (ES+) 408.3 (MH+)

reactant | 2-Chloro-4-(2-ethylanilino)pyrimidine | 0.90 mmol, 210 mg | ClC1=NC=CC(=N1)NC1=C(C=CC=C1)CC | C12H12ClN3
reactant | 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline hydrochloride | 0.81 mmol, 229 mg | Cl.CN(C)CC(COC1=CC=C(N)C=C1)O
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
solvent | methanol | 2 ml | CO | CH4O
product | 2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(2-ethylanilino)pyrimidine | 201 mg, 61% | CN(C)CC(COC1=CC=C(NC2=NC=CC(=N2)NC2=C(C=CC=C2)CC)C=C1)O | C23H29N5O2
